US09212154B2
Thiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester hydrochloride (0.50 g, 2.07 mmol) was subjected to acylation with acetyl chloride (0.22 ml, 3.09 mmol) in the presence of triethylamine (0.58 ml, 4.17 mmol) to give N-acetylthiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester (with the ratio of two kinds of stereoisomers of about 49:51 as confirmed by NMR) as a pale-yellow oil (0.42 g, 83.0%).

reactant | Thiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester hydrochloride | 2.07 mmol, 0.50 g | Cl.COC(=O)C1SCC(N1)C(=O)OC
reactant | acetyl chloride | 3.09 mmol, 0.22 ml | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 4.17 mmol, 0.58 ml | C(C)N(CC)CC | C6H15N
product | N-acetylthiazolidine-2,4-dicarboxylic acid 2,4-dimethyl ester | COC(=O)C1SCC(N1C(C)=O)C(=O)OC | C9H13NO5S
